US06974836B2
A solution of 3-nitro-5(trifluoromethyl)benzoic acid (7.71 g, 32.8 mmol) and glycine tert-butyl ester (5.23 g, 32.4 mmol) in methylene chloride (330 mL) was charged with N,N-diisopropylethylamine (5.5 mL, 31.8 mmol) and BOP (14.6 g, 32.9 mmol). The reaction was stirred at RT for 14 h, concentrated in vacuo, and diluted with EtOAc (1 L). The organic phase was washed successively with sat. NH4Cl, sat. NaHCO3, and brine before being dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, 50% EtOAc/hexanes) to afford the tert-Butyl (3-trifluoromethylbenzoyl)glycine as an oil. A portion (1.0 g, 2.65 mmol) of this material was dissolved in methylene chloride (8 mL) before being treated with TFA (4 mL). The reaction was stirred for 1 h at RT and then concentrated in vacuo. The residue was dissolved in methlyene chloride and concentrated again; this procedure was repeated twice more to afford the title compound 1.2 (Z=—C(O)—, R2=3-amino-5-(trifluoromethyl)phenyl, all other R=H; 0.77 g) as a white solid. MS found: (M−H)−=291.1.

reactant | 3-nitro-5(trifluoromethyl)benzoic acid | 32.8 mmol, 7.71 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4F3NO4
reactant | glycine tert-butyl ester | 32.4 mmol, 5.23 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | N,N-diisopropylethylamine | 31.8 mmol, 5.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | BOP | 32.9 mmol, 14.6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 330 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (3-trifluoromethylbenzoyl)glycine | C(C)(C)(C)N(CC(=O)O)C(C1=CC(=CC=C1)C(F)(F)F)=O | C14H16F3NO3
